US04186199
An ice cold solution of 8.88 g of 1,2-dihydro-6-furylindolo[1,7-ab][1,5]benzodiazepine (HCl salt) in 100 ml 3:1 absolute ethanol-THF is treated portionwise with 2.5 g NaBH4 added at such a rate as to minimize foaming. After stirring for 1.5 hours at 0° C., water is added dropwise and the product is partitioned in CH2Cl2 -water. The aqueous phase is extracted with CH2Cl2 and the combined organic portions are washed with brine, dried over K2CO3, and concentrated to an oil which solidifies upon standing to yield 6-furyl-1,2,6,7-tetrahydroindolo[1,7-ab][1,5]benzodiazepine, m.p. 141°-144° C.

reactant | 1,2-dihydro-6-furylindolo[1,7-ab][1,5]benzodiazepine | 8.88 g | O1C(=CC=C1)C=1C2=C3N(C4=C(N1)C=CC=C4)CCC3=CC=C2 | C19H14N2O
reactant | ethanol THF | C(C)O.C1CCOC1
reactant | NaBH4 | 2.5 g | [BH4-].[Na+]
solvent | water | O | H2O
product | 6-furyl-1,2,6,7-tetrahydroindolo[1,7-ab][1,5]benzodiazepine | O1C(=CC=C1)C1C2=C3N(C4=C(N1)C=CC=C4)CCC3=CC=C2 | C19H16N2O
